US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(2,4-difluorophenyl)-2-hydroxy-ethyl]-methyl-amide
To a solution of 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(2,4-difluorophenyl)-2-hydroxy-ethyl]-amide (the compound of Preparation Example 51) (197 mg) in N,N-dimethylformamide (3 mL) was added potassium carbonate (140 mg) and methyl iodide (0.1 mL). After stirring at room temperature for 1 hour, ethyl acetate was added, and the precipitate was removed by filtration. The solvent was evaporated at reduced pressure. Purification was carried out by silica gel column chromatography (hexane/ethyl acetate), and the title compound (190 mg) was obtained as a colorless candy-like substance.

reactant | 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(2,4-difluorophenyl)-2-hydroxy-ethyl]-amide | FC1=C(C=CC(=C1)F)C(CNS(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)O | C16H15F2NO4S2
reactant | potassium carbonate | 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.1 mL | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(2,4-difluorophenyl)-2-hydroxy-ethyl]-methyl-amide | 190 mg | FC1=C(C=CC(=C1)F)C(CN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)C)O | C17H17F2NO4S2
